US07547691B2
(B). Preparation of 4-(3-aminopropyl)-4-ethylpiperidine-1-carboxylic acid tert-butyl ester
Using the method of 4-(3-aminopropyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester, the title compound is synthesized from 4-ethylpiperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester and isolated as a clear oil.

reactant | 4-(3-aminopropyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)CCCN | C14H28N2O2
reactant | 4-ethylpiperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC | C14H25NO4
product | 4-(3-aminopropyl)-4-ethylpiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC)CCCN | C15H30N2O2
